US06432950B1
Following the procedure of Example 97, the reaction of pyrazole with 2-chloro-6-trifluoromethyl-4-(4-fluorobenzylamino)-thieno-[2,3-d]-pyrimidine gives 2-(pyrazol-1-yl)-6-trifluoromethyl-4-(4-fluorobenzylamino)-thieno-[2,3-d]-pyrimidine.

reactant | pyrazole | N1N=CC=C1 | C3H4N2
reactant | 2-chloro-6-trifluoromethyl-4-(4-fluorobenzylamino)-thieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC(=C2)C(F)(F)F)NCC2=CC=C(C=C2)F | C14H8ClF4N3S
product | 2-(pyrazol-1-yl)-6-trifluoromethyl-4-(4-fluorobenzylamino)-thieno-[2,3-d]-pyrimidine | N1(N=CC=C1)C=1N=C(C2=C(N1)SC(=C2)C(F)(F)F)NCC2=CC=C(C=C2)F | C17H11F4N5S
